US07314936B2
Methyllithium (1M in THF) (120 mL, 3.5 eq.) was added to a solution of 4-hydroxy-cyclohexanecarboxylic acid (cis/trans mixture) (5.00 g, 1 eq.) in THF (350 mL) at −78° C. After stirring at −78° C. for 45 min, the cooling bath was removed and the resulting mixture was warmed to room temperature and stirred overnight. After total 24 h, the resulting reaction mixture was poured into ice/water (800 mL). This mixture was vigorously stirred. The separated aqueous phase was extracted with MeOH/EtOAc (˜1/20). The combined organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified by chromatography (50% to 100% EtOAc/hexanes) to give 1-(4-hydroxy-cyclohexyl)-ethanone (2.08 g, 42%).

reactant | Methyllithium | 1M, 120 mL, 3.5 eq. | C[Li]
reactant | 4-hydroxy-cyclohexanecarboxylic acid | 5.00 g, 1 eq. | OC1CCC(CC1)C(=O)O | C7H12O3
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 1-(4-hydroxy-cyclohexyl)-ethanone | 2.08 g, 42% | OC1CCC(CC1)C(C)=O | C8H14O2
